US07235574B2
iii) 4-(4-Imidazol-1-yl-butyl)-phenol
1.90 g (8.25 mmol) 1-[4-(4-methoxy-phenyl)-butyl]-1H-imidazole and 28 ml (247 mmol) 48% aqueous hydrobromic acid were stirred at 80° C. for 10 h. The mixture was cooled to 0° C., 23 ml of 4 N NaOH added, extracted with toluene and the aqueous phase adjusted to pH=6.3 by addition of 6 N HCl. The resulting precipitate was isolated, washed with ethyl acetate/n-heptane 2:1 and dried. 1.2 g (67%) slightly yellow powder.

reactant | 1-[4-(4-methoxy-phenyl)-butyl]-1H-imidazole | 8.25 mmol, 1.90 g | COC1=CC=C(C=C1)CCCCN1C=NC=C1 | C14H18N2O
reactant | hydrobromic acid | 247 mmol, 28 ml | Br | BrH
reactant | NaOH | 4 N, 23 ml | [OH-].[Na+]
product | 4-(4-Imidazol-1-yl-butyl)-phenol | N1(C=NC=C1)CCCCC1=CC=C(C=C1)O | C13H16N2O
